data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)ccc1Cl.[H+]", "products": "Cc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1Cl"}, {"reactants": "Cc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1Cl", "products": "Cc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1Cl.O"}, {"reactants": "Cc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1Cl", "products": "Cc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1Cl"}, {"reactants": "Cc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1Cl", "products": "CC1=C(c2ccc(Cl)c(C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)c(C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)c(C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)c(C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1Cl"}, {"reactants": "Cc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1Cl", "products": "Cc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1Cl"}, {"reactants": "Cc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1Cl", "products": "Cc1cc(C2CCC3C(=O)OC2(C)C3(C)C)ccc1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(Cl)cc(Cl)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(Cl)cc(Cl)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(Cl)cc(Cl)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(Cl)cc(Cl)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(Cl)cc(Cl)c1)C2(C)C", "products": "C[C+]1C2(c3cc(Cl)cc(Cl)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(Cl)cc(Cl)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(Cl)cc(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)cc(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(Cl)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(Cl)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(Cl)cc(Cl)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(Cl)cc(Cl)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(Cl)cc(Cl)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(Cl)cc(Cl)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(Cl)cc(Cl)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(C)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "Cc1cc(C)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "Cc1cc(C)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "Cc1cc(C)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc(C)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc(C)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(OC)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1ccc(OC)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(OC)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(OC)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1ccc(OC)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(OC)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1ccc(OC)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1ccc(OC)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1ccc(OC)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1ccc(OC)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1ccc(OC)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1ccc(OC)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1ccc(OC)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1ccc(OC)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(OC)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1ccc(OC)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(Cl)COC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(Cl)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(Cl)OCC2(Cl)O3)cc1", "products": "O=C1C2C1C1(Cl)OCC2(Cl)O1"}, {"reactants": "O=C1C2C1C1(Cl)OCC2(Cl)O1.[O-]C", "products": "COC1([O-])C2C1C1(Cl)OCC2(Cl)O1"}, {"reactants": "COC1([O-])C2C1C1(Cl)OCC2(Cl)O1.CO", "products": "COC(=O)C1CC2(Cl)COC1(Cl)O2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1C.[Pd]", "products": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1C"}, {"reactants": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1C", "products": "Cc1cc2c(cc1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc2c(cc1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc2c(cc1C)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
